US06982348B2
5) (4RS,5SR)-5-[4-(methylsulfonyl)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one
To a solution of (2RS,3RS)-3-[4-(methylsulfonyl)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid (2.20 g, 4.88 mmol) in tetrahydrofuran (20 ml) were added diphenylphosphoryl azide (1.37 ml, 6.35 mmol) and triethylamine (0.95 ml, 6.84 mmol) and the mixture was stirred at room temperature for 1 hr. After heating under reflux for 1 hr, water (100 ml) was added and the mixture was extracted, with ethyl acetate (100 ml×2). The extract was washed with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=1:1-1:3). Hexane was added to the precipitated crystals and the mixture was filtered to give the objective substance (2.07 g, 95%).

reactant | (2RS,3RS)-3-[4-(methylsulfonyl)phenyl]-3-hydroxy-2-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]propanoic acid | 4.88 mmol, 2.20 g | CS(=O)(=O)C1=CC=C(C=C1)C(C(C(=O)O)CC1=CC(=CC=C1)OC(C(F)F)(F)F)O | C19H18F4O6S
reactant | diphenylphosphoryl azide | 6.35 mmol, 1.37 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 6.84 mmol, 0.95 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (4RS,5SR)-5-[4-(methylsulfonyl)phenyl]-4-[3-(1,1,2,2-tetrafluoroethoxy)benzyl]-1,3-oxazolidin-2-one | CS(=O)(=O)C1=CC=C(C=C1)C1C(NC(O1)=O)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C19H17F4NO5S
